US05236952
7 g of manganese dioxide and added portionwise to 4.0 g of α-(3,4-dimethoxy-5-nitrophenyl)-2-pyridine-methanol dissolved in 100 ml of acetone while constantly heating under reflux over a period of 2.5 hours. Thereupon, the mixture is heated under reflux for an additional 2 hours. The manganese salts are subsequently filtered and the residue obtained after evaporation is recrystallized from ether/hexane. There is obtained 3,4-dimethoxy-5-nitrophenyl 2-pyridyl ketone of m.p. 113°.

reactant | α-(3,4-dimethoxy-5-nitrophenyl)-2-pyridine-methanol | 4.0 g | COC=1C=C(C=C(C1OC)[N+](=O)[O-])C(O)C1=NC=CC=C1 | C14H14N2O5
solvent | acetone | 100 ml | CC(=O)C | C3H6O
catalyst | manganese dioxide | 7 g | [O-2].[O-2].[Mn+4]
product | 3,4-dimethoxy-5-nitrophenyl 2-pyridyl ketone | N1=C(C=CC=C1)C(=O)C1=CC(=C(C(=C1)[N+](=O)[O-])OC)OC | C14H12N2O5
